*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/2.20e-02[uF]/25[V]
* Murata P/N :GRT155R71E223KE01
* Property : C = 2.20e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRT155R71E223KE01 Port1 Port2
C01 Port1 N01 2.20e-08
R01 Port1 N01 1.00e+09
L02 N01 N02 1.62e-10
R03 N02 N03 4.45e-02
C04 N03 N04 2.50e-06
R04 N03 N04 1.59e+03
C05 N04 N05 4.45e-06
R05 N04 N05 1.21e+02
C06 N05 N06 3.21e-06
R06 N05 N06 2.10e+01
C07 N06 N07 3.07e-06
R07 N06 N07 2.48e+00
C08 N07 N08 2.33e-06
R08 N07 N08 3.96e-01
C09 N08 N09 1.16e-06
R09 N08 N09 7.73e-02
L10 N09 N10 1.36e-11
R10 N09 N10 3.42e-01
L11 N10 N11 6.96e-11
R11 N10 N11 1.43e-01
C12 N11 N12 2.66e-07
L12 N11 N12 6.74e-12
R12 N11 N12 8.99e-03
C13 N12 N13 3.75e-08
L13 N12 N13 2.03e-11
R13 N12 N13 2.82e-02
C14 N13 Port2 2.62e-12
L14 N13 Port2 1.19e-10
R14 N13 Port2 2.15e+01
.ENDS GRT155R71E223KE01
